US05922724
N-Acetyl 4-bromo-2-nitroaniline (1d):
A solution of 4-bromoacetanilide (20 g, 93.4 mmol) in methanesulfonic acid is cooled to 10° C. Conc. nitric acid (12.6 ml) is added and the mixture is stirred at 40° C. for 2 hours. The mixture is poured into ice-water. The product is filtered off, washed with water and dried. Yield: 23.59 g (97%). Mp 99-100° C.

reactant | 4-bromoacetanilide | 93.4 mmol, 20 g | CC(=O)NC1=CC=C(C=C1)Br | C8H8BrNO
reactant | nitric acid | 12.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | N-Acetyl 4-bromo-2-nitroaniline | C(C)(=O)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C8H7BrN2O3
